US05134142
A mixture of 1-(4-fluorophenyl)-N,N-dimethyl-5-[4-(methylthio)phenyl)pyrazole-3-carboxamide (1.6 g) and lithium aluminum hydride (0.34 g) in ether (8.5 ml) and benzene (13 ml) was stirred and refluxed for 2 hours. 4N Sodium hydroxide (10 ml) was added dropwise and ethyl acetate (20 ml) was added to the mixture. The insoluble was filtered and the filtrate was separated. The organic layer was washed with water, dried and concentrated. The residue (1.2 g) was purified by column chromatography on silica gel (30 g) eluting with a mixture of ethyl acetate and methanol (5:1) to give a pale brown oil of 3-(N,N-dimethylaminomethyl)-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole (0.69 g).

reactant | 1-(4-fluorophenyl)-N,N-dimethyl-5-[4-(methylthio)phenyl)pyrazole-3-carboxamide | 1.6 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)N(C)C | C19H18FN3OS
reactant | lithium aluminum hydride | 0.34 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 8.5 ml | CCOCC | C4H10O
solvent | benzene | 13 ml | C1=CC=CC=C1 | C6H6
product | 3-(N,N-dimethylaminomethyl)-1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole | 0.69 g | CN(C)CC1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C19H20FN3S
